US04599357
0.93 g of triethylamine are added to the suspension of 0.7 g of 3,3-dimethylindoline-2-carboxylic acid hydrochloride in 20 ml of methylene chloride and the resulting solution is cooled to -10°. The solution of 0.51 g of 3-acetylthiopropanoyl chloride in 5 ml of methylene chloride is added dropwise and the mixture stirred at -5° to -10° for 1 hour and at room temperature for 3 hours. It is cooled to 0° and treated with 10 ml of 3N hydrochloric acid. The organic layer is separated and the aqueous solution further extracted with methylene chloride. The combined methylene chloride solutions are dried and evaporated, to give the 1-(3-acetylthiopropanoyl)-3,3-dimethylindoline-2-carboxylic acid as a foam.

reactant | triethylamine | 0.93 g | C(C)N(CC)CC | C6H15N
reactant | 3,3-dimethylindoline-2-carboxylic acid hydrochloride | 0.7 g | Cl.CC1(C(NC2=CC=CC=C12)C(=O)O)C
reactant | 3-acetylthiopropanoyl chloride | 0.51 g | C(C)(=O)SCCC(=O)Cl | C5H7ClO2S
reactant | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-acetylthiopropanoyl)-3,3-dimethylindoline-2-carboxylic acid | C(C)(=O)SCCC(=O)N1C(C(C2=CC=CC=C12)(C)C)C(=O)O | C16H19NO4S
